US04680301
To a cooled mixture of 1.5 g of 6-amino-2-tert-butyl-5-[3-methylpiperidin-1-yl]benzothiazole and 1.5 g of potassium bicarbonate in 50 ml of chloroform is added dropwise 0.6 g of thiophosgene in 5 ml of chloroform under stirring. The stirring is continued for 30 minutes maintaining the temperature at 0°-2°. The solid is filtered and the filtrate is evaporated. The residue thus obtained is dissolved in chloroform and filtered through a silica gel column. The filtrate is evaporated to give 2-tert-butyl-6-isothiocyanato-5-[3-methylpiperidin-1-yl]benzothiazole, melting at 47°-52°.

reactant | 6-amino-2-tert-butyl-5-[3-methylpiperidin-1-yl]benzothiazole | 1.5 g | NC1=CC2=C(N=C(S2)C(C)(C)C)C=C1N1CC(CCC1)C | C17H25N3S
reactant | potassium bicarbonate | 1.5 g | C([O-])(O)=O.[K+]
reactant | thiophosgene | 0.6 g | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-tert-butyl-6-isothiocyanato-5-[3-methylpiperidin-1-yl]benzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)N=C=S)N2CC(CCC2)C | C18H23N3S2
